US05037987
(±)-1,4-Dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid benzyl ester
In a 500-mL four-necked round-bottom flask equipped with a stirrer, dropping funnel, reflux condenser with gas lead-off, a thermometer and a gas inlet are placed 100 mL benzyl alcohol and 0.937 g (0.0312 mole) sodium hydride (80% in oil) is introduced while flushing with a protective gas. The resulting suspension is then subsequently stirred for 30 minutes. Thereafter, a solution of 52.55 g (0.124 mole) (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid ethyl ester in 200 mL benzyl alcohol is allowed to run in, followed by stirring for 15 hours at 120° C. After cooling to ambient temperature, the reaction mixture is stirred with 1 L of water and 400 mL dichloromethane. After separating the phases, the aqueous phase is again stirred with 300 mL dichloromethane. The dichloromethane phases are combined and washed twice with 300 mL amounts of water. The dichloromethane phase is dried over anhydrous sodium sulfate. After filtering, the dichloromethane is distilled off on a rotary evaporator and subsequently the benzyl alcohol is distilled off under oil pump vacuum (54°-65° C./3-5 mm Hg). The distillation residue is dissolved in 600 mL hot cyclohexane and the solution is cooled to 0° C. while stirring. The precipitate obtained is filtered off with suction and subsequently washed with 100 mL n-hexane. The filter cake is then dried at 80° C. Yield: 43.9 g (72.8% of theory); mp 131° C. with a purity of 99.4 relative %.

reactant | sodium hydride | 0.0312 mole, 0.937 g | [H-].[Na+]
reactant | (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid ethyl ester | 0.124 mole, 52.55 g | C(C)OC(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=CC=C1)C(F)(F)F)OC(C)C)C | C22H23F3N2O3
reactant | water | 1 L | O | H2O
reactant | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | benzyl alcohol | 200 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | benzyl alcohol | 100 mL | C(C1=CC=CC=C1)O | C7H8O
product | (±)-1,4-Dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=CC=C1)C(F)(F)F)OC(C)C)C | C27H25F3N2O3
